US04097526
55 grams of a 30 percent aqueous hydrogen peroxide solution was added dropwise to a mixture of 55 grams of 2-methyl-2-(methylthio)propionaldehyde O-(methylcarbamoyl)oxime and 15 grams of formic acid in 200 grams of methylene chloride solution over a 15-20 minute period. The temperature rose from 25° to 40° C. during the addition. When the addition was complete 3 grams of concentrated sulfuric acid was added dropwise to maintain a gentle reflux followed by an additional 2 hours of reflux at 40°-45° C. After the reaction period was over, methylene chloride solvent was evaporated under reduced pressure. The mixture was cooled to 5° C. and filtered. The 2-methyl-2-(methylsulfonyl)propionaldehyde solid obtained was washed with 200 ml of water and dried to give 37 grams 2-methyl-2-(methylsulfonyl)propionaldehyde O-(methylcarbamoyl)oxime m.p. 145°-147° C. The yield was 90.5 percent based on 2-methyl-2-(methylthio)propionaldehyde.

reactant | hydrogen peroxide | OO | H2O2
reactant | 2-methyl-2-(methylthio)propionaldehyde O-(methylcarbamoyl)oxime | 55 grams | CNC(=O)ON=CC(C)(SC)C | C7H14N2O2S
reactant | formic acid | 15 grams | C(=O)O | CH2O2
reactant | sulfuric acid | 3 grams | S(O)(O)(=O)=O | H2O4S
reactant | methylene chloride | 200 grams | C(Cl)Cl | CH2Cl2
product | 2-methyl-2-(methylsulfonyl)propionaldehyde | CC(C=O)(C)S(=O)(=O)C | C5H10O3S
